US05409943
(a) N-(3-Benzyloxy-2-pyridyl)-N'-(4-chlorophenyl)thiourea
A stirring mixture of 2-amino-3-benzyloxy pyridine (5.37 g, 0.0268 mol) and 4-chlorophenylisothiocyanate (5 g, 0.0295 mol) in toluene (20 ml) was heated under reflux for 2 h. After allowing to cool, the solution was treated with ether, and the resulting solid filtered off, washed and dried. Yield 8.33 g (84%), m.p. 140°-143 ° C.

reactant | 2-amino-3-benzyloxy pyridine | 0.0268 mol, 5.37 g | NC1=NC=CC=C1OCC1=CC=CC=C1 | C12H12N2O
reactant | 4-chlorophenylisothiocyanate | 0.0295 mol, 5 g | ClC1=CC=C(C=C1)N=C=S | C7H4ClNS
reactant | ether | CCOCC | C4H10O
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | N-(3-Benzyloxy-2-pyridyl)-N'-(4-chlorophenyl)thiourea | C(C1=CC=CC=C1)OC=1C(=NC=CC1)NC(=S)NC1=CC=C(C=C1)Cl | C19H16ClN3OS
